US07935702B2
1. 2-Bromo-1-(5-bromo-3-(trifluoromethyl)pyridin-2-yl)ethanone
Dissolve 1-(5-bromo-3-(trifluoromethyl)pyridin-2-yl)ethanone (0.7 g, 0.0026 mol) in anhydrous THF at room temperature under N2 atmosphere. Add phenyltrimethyl-ammonium tribromide (1.47 g, 0.0039 moles, 1.5 eq.) to the reaction mixture and reflux overnight. Cool the reaction mixture to room temperature, filter the insoluble solid and concentrate the filtrate under vacuum. Purify by column chromatography to afford the title compound as a yellow oil.

reactant | 1-(5-bromo-3-(trifluoromethyl)pyridin-2-yl)ethanone | 0.0026 mol, 0.7 g | BrC=1C=C(C(=NC1)C(C)=O)C(F)(F)F | C8H5BrF3NO
reactant | phenyltrimethyl-ammonium tribromide | 0.0039 moles, 1.47 g, 1.5 eq. | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
solvent | THF | C1CCOC1 | C4H8O
product | 2-Bromo-1-(5-bromo-3-(trifluoromethyl)pyridin-2-yl)ethanone | BrCC(=O)C1=NC=C(C=C1C(F)(F)F)Br | C8H4Br2F3NO
